US05652246
3-(1-Cyclopentenyl)-2(3H)-benzimidazolone
100 mmol of 2-aminoaniline and 135 mmol of 2-ethoxycarbonylcyclopentanone in 50 ml of xylene are brought to reflux for 5 hours, the water and the ethanol formed being removed with the aid of a Dean and Stark apparatus. After cooling, the expected product crystallizes and it is then filtered, washed with xylene and then with hexane and then dried.

reactant | 2-aminoaniline | 100 mmol | NC1=C(N)C=CC=C1 | C6H8N2
reactant | 2-ethoxycarbonylcyclopentanone | 135 mmol | C(C)OC(=O)C1C(CCC1)=O | C8H12O3
reactant | water | O | H2O
reactant | ethanol | C(C)O | C2H6O
solvent | xylene | 50 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 3-(1-Cyclopentenyl)-2(3H)-benzimidazolone | C1(=CCCC1)N1C(NC2=C1C=CC=C2)=O | C12H12N2O
